US07795236B2
N-(Naphthalene-2-ylmethyl)phthalimide
To a solution of 2-(bromomethyl)naphthalene (0.500 g) in N,N-dimethylformamide (11 mL) was added potassium phthalimide (0.461 g), and the resulting mixture was stirred at 50° C. for 2 hours. The reaction mixture was partitioned between ethyl acetate (50 mL) and water (15 mL). The organic layer was washed successively with water (15 mL×2) and brine (15 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.380 g).

reactant | 2-(bromomethyl)naphthalene | 0.500 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium phthalimide | 0.461 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 11 mL | CN(C=O)C | C3H7NO
product | N-(Naphthalene-2-ylmethyl)phthalimide | 0.380 g | C1=C(C=CC2=CC=CC=C12)CN1C(C=2C(C1=O)=CC=CC2)=O | C19H13NO2
